US07709479B1
Trifluoromethane sulfonic anhydride (0.96 ml, 5.73 mmol) and pyridine (0.46 ml, 5.73 mmol) were added to a solution of 7-benzyloxy-3,4-dihydroquinazolin-4-thione (1.0 g, 5.21 mmol) in methylene chloride (20 ml) at 0° C. for 1.5 hour. Hydrochloric acid (0.5 N) was then added to the mixture which was extracted with ethyl acetate. The organic phase was washed brine, dried over magnesium sulphate and the solvents were removed in vacuo. Purification by flash chromatography on silica gel, eluting with isohexane/ethyl acetate (1:4) yielded 4-(methylthio)-7-(trifluoromethanesulphonyloxy)quinazoline (800 mg, 50% yield):

reactant | Trifluoromethane sulfonic anhydride | 5.73 mmol, 0.96 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 5.73 mmol, 0.46 ml | N1=CC=CC=C1 | C5H5N
reactant | 7-benzyloxy-3,4-dihydroquinazolin-4-thione | 5.21 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C2C(NC=NC2=C1)=S | C15H12N2OS
reactant | Hydrochloric acid | 0.5 N | Cl | ClH
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(methylthio)-7-(trifluoromethanesulphonyloxy)quinazoline | 800 mg, 50% yield | CSC1=NC=NC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C10H7F3N2O3S2
